US04143166
A mixture of 3-nitro-4-benzyloxyphenylglyoxylic acid (30 g.), conc. hydrochloric acid (90 ml.) and acetic acid (120 ml.) was stirred for 3 hours at 100° C. To the reaction mixture was added under cooling ice-water (600 ml.) and the mixture was extracted with ethyl acetate. The extract was washed with ice-water, dried over magnesium sulfate and concentrated to dryness under reduced pressure. The residue was recrystallized from a mixture of benzene: ether: petroleum ether (2:1:4). The crystals were collected by filtration, washed with benzene and dried under reduced pressure to give 3-nitro-4-hydroxyphenylglyoxylic acid (19.0 g.), mp 139° to 140.5° C.

reactant | 3-nitro-4-benzyloxyphenylglyoxylic acid | 30 g | [N+](=O)([O-])C=1C=C(C=CC1OCC1=CC=CC=C1)C(C(=O)O)=O | C15H11NO6
reactant | hydrochloric acid | 90 ml | Cl | ClH
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 3-nitro-4-hydroxyphenylglyoxylic acid | 19.0 g | [N+](=O)([O-])C=1C=C(C=CC1O)C(C(=O)O)=O | C8H5NO6
